US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline (3 g, 9.1 mmol) and pyridine-3-sulfonyl chloride (1.93 g, 10.9 mmol) the title compound was obtained (3.1 g, 72% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.57-10.63 (br, 1H), 8.84 (d, J=2.2 Hz, 1H), 8.74-8.78 (m, 1H), 8.50 (d, J=5.3 Hz, 1H), 8.07-8.12 (m, 1H), 7.55-7.59 (m, 1H), 7.31-7.37 (m, 1H), 7.17-7.28 (m, 3H), 6.92 (d, J=5.3 Hz, 1H), 3.24-3.34 (m, 1H), 1.34 (d, J=6.8 Hz, 6H). MS (ES+): 472 [M+H]+.

reactant | 3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline | 9.1 mmol, 3 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(N)C=CC1 | C16H15ClN4S
reactant | pyridine-3-sulfonyl chloride | 10.9 mmol, 1.93 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide | 72% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1 | C21H18ClN5O2S2
